US06018046
Synthesis of 5-(1-hydroxypropyl)-4H-pyrido[3,2,1-jk]carbazole-4-one
5,6-dihydro-4H-pyrido[3,2,1-jk]carbazole-4-one (800 mg) prepared by the procedure described in J.O.C., 24, 324 (1959) was dissolved in anhydrous tetrahydrofuran (30 ml). n-butyl lithium (solution in hexane, 3 ml) was added dropwise to the solution cooled in an acetone-dry ice bath, and the mixture was stirred for 30 minutes. Propionaldehyde (0.29 ml) dissolved in anhydrous tetrahydrofuran (15 ml) was gradually added dropwise to the solution cooled in an acetone-dry ice bath, and the mixture was stirred for 90 minutes. Saturated aqueous solution of ammonium chloride of an adequate amount was added to the reaction mixture, and the mixture was heated to room temperature, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: hexane/ethyl acetate=4:1) to obtain the title compound as a diastereomer (450 mg, 45%).

reactant | 5,6-dihydro-4H-pyrido[3,2,1-jk]carbazole-4-one | 800 mg | C1=C2C=3C=CC=CC3N3C2=C(C=C1)C(CC3)=O | C15H11NO
reactant | n-butyl lithium | 3 ml | C(CCC)[Li]
reactant | Propionaldehyde | 0.29 ml | C(CC)=O | C3H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 5-(1-hydroxypropyl)-4H-pyrido[3,2,1-jk]carbazole-4-one | OC(CC)C=1C(C=2C=CC=C3C=4C=CC=CC4N(C23)C1)=O | C18H15NO2
